US07528120B2
To a solution of (R/S)-4-[2-(4-hydroxymethyl-2-methyl-4,5-dihydro-oxazol-4-yl)-ethyl]-phenol (500 mg, 0.2.12 mmol) in dry DMF (8 ml) is added under inert atmosphere Cs2CO3 (901 mg, 2.76 mmol, 1.3 eq.) and 1-bromo-6-fluoro-hexane (464.1 mg, 2.55 mmol, 1.2 eq.). The reaction mixture is stirred under inert atmosphere at 85° C. overnight. A saturated solution of NaHCO3 (20 ml) and ethyl acetate (40 ml) are then added. The organic layer is separated and the aqueous phase is extracted with ethyl acetate (3×40 ml). The combined organic extracts are washed with brine and 1M HCl, dried over MgSO4, and evaporated to dryness. Purification by flash chromatography (cy Hexane/ethyl acetate(9/1) to (1/1) and (0/1)) affords (R/S)-(4-{2-[4-(6-fluoro-hexyloxy)-phenyl]-ethyl}-2-methyl-4,5-dihydro-oxazol-4-yl)-methanol as colorless oil.

reactant | (R/S)-4-[2-(4-hydroxymethyl-2-methyl-4,5-dihydro-oxazol-4-yl)-ethyl]-phenol | 500 mg | OCC1(N=C(OC1)C)CCC1=CC=C(C=C1)O | C13H17NO3
reactant | Cs2CO3 | 2.76 mmol, 901 mg, 1.3 eq. | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1-bromo-6-fluoro-hexane | 2.55 mmol, 464.1 mg, 1.2 eq. | BrCCCCCCF | C6H12BrF
reactant | NaHCO3 | 20 ml | C(=O)(O)[O-].[Na+]
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | (R/S)-(4-{2-[4-(6-fluoro-hexyloxy)-phenyl]-ethyl}-2-methyl-4,5-dihydro-oxazol-4-yl)-methanol | FCCCCCCOC1=CC=C(C=C1)CCC1(N=C(OC1)C)CO | C19H28FNO3
